US04877793
A mixture of ethyl 2-chloro-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate (1.6 g) and 0.35M aqueous sodium hydroxide solution (50 ml) was stirred at 95° for 3 hours. The mixture was cooled to 0° and acidified with 5M hydrochloric acid to pH 4. After 15 minutes the solid was collected, washed with water and stirred with a mixture of diethyl ether (60 ml) and industrial methylated spirit (10 ml) for 2 hours. The solid was collected and dried to give the novel compound 2-chloro-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylic acid.

reactant | ethyl 2-chloro-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate | 1.6 g | ClC1=CC=2N(C=C(C(C2S1)=O)C(=O)OCC)C | C11H10ClNO3S
reactant | hydrochloric acid | 5M | Cl | ClH
solvent | sodium hydroxide | 0.35M, 50 ml | [OH-].[Na+]
product | 2-chloro-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylic acid | ClC1=CC=2N(C=C(C(C2S1)=O)C(=O)O)C | C9H6ClNO3S
